US04140785
A stirred mixture of 0.2 mole of 3-chlorocinnamic acid in a solution containing 200 ml. of chlorobenzene, 75 ml. of thionyl chloride and 2.0 ml of pyridine was heated at reflux for 72 hours and filtered while hot to remove insoluble material. The filtrate was concentrated to remove the solvent and the solid residue was recrystallized from toluene to give 3,7-dichlorobenzo[b]thiophene-;b 2-carbonyl chloride, m.p. 100°-102° C.

reactant | 3-chlorocinnamic acid | 0.2 mole | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 3,7-dichlorobenzo[b]thiophene | ClC=1C2=C(SC1)C(=CC=C2)Cl | C8H4Cl2S
